US05872115
Step 2): To a suspension of LiAlH4 (10 g, 263 mmol) in THF (100 ml) was added dropwise a solution of 1-diphenylmethylpiperidin-3-carboxamide (32 g, 109 mmol) in THF (130 ml) for 40 mins under stirring and cooling in an ice-bath. After the addition was complete, the mixture was refluxed for 2 hours and then cooled. To the resulting mixture, 15% NaOH aqueous solution and H2O were added dropwise in order, and the insoluble materials were filtered off. The filtrate was dried over MgSO4 and evaporated. The residue was purified by column chromatography on silica gel to give 3-aminomethyl-1-diphenylmethylpiperidine as a colorless oil, 23 g (75.5%).

reactant | LiAlH4 | 263 mmol, 10 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-diphenylmethylpiperidin-3-carboxamide | 109 mmol, 32 g | C1(=CC=CC=C1)C(N1CC(CCC1)C(=O)N)C1=CC=CC=C1 | C19H22N2O
reactant | NaOH | [OH-].[Na+]
reactant | H2O | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 3-aminomethyl-1-diphenylmethylpiperidine | NCC1CN(CCC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H24N2
